US06531502B1
Tetrakis(triphenylphosphine)palladium(0) (0.02 g) was added to a solution of 3-(3-bromo-4,5-dimethoxybenzylidene)-1,3-dihydroindol-2-one (0.20 g) in toluene (1 ml) and ethanol (1 ml) followed by addition of 2M aqueous sodium carbonate (1.1 ml). To this mixture was added naphthalene-2-boronic acid (0.11 g), and the mixture was held at 100° C. in a sealed tube for 12 hours. The precipitate which formed was filtered, washed with ethanol and then dissolved in 20% methanol/toluene, filtered and concentrated. The resulting solid was triturated with hexanes and dried to afford 0.07 g (29%) of 3-(4,5-dimethoxy-2-naphthalen-2-ylbenzylidene)-1,3-dihydroindol-2-one as an orange solid.

reactant | 3-(3-bromo-4,5-dimethoxybenzylidene)-1,3-dihydroindol-2-one | 0.20 g | BrC=1C=C(C=C2C(NC3=CC=CC=C23)=O)C=C(C1OC)OC | C17H14BrNO3
reactant | sodium carbonate | 2M, 1.1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | naphthalene-2-boronic acid | 0.11 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4,5-dimethoxy-2-naphthalen-2-ylbenzylidene)-1,3-dihydroindol-2-one | 0.07 g, 29% | COC1=CC(=C(C=C2C(NC3=CC=CC=C23)=O)C=C1OC)C1=CC2=CC=CC=C2C=C1 | C27H21NO3
